US06197959B1
In analogy to the procedure described in example 8(c), the (3R,4R)-3-[1-(2-methanesulfonyloxy-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was treated with methylamine to yield the (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[1-(2-methylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil; MS: 674 (M+H)+.

reactant | (3R,4R)-3-[1-(2-methanesulfonyloxy-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCOS(=O)(=O)C | C40H54N2O9S
reactant | methylamine | CN | CH5N
product | (3R,4R)-4-[4-[3-(2-methoxy-benzyloxy)-propoxy]-phenyl]-3-[1-(2-methylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-7-ylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)OCC1=CC=C2CCCN(C2=C1)CCNC | C40H55N3O6
